US07067702B2
Synthesis of 5-vinylthenoyltrifluoroacetone:
1,4-Dioxane (40 mL), tri-t-butylphosphine (0.182 g, 0.9 mmol), and methyldicyclohexylamine (19.5 g, 100 mmol) were placed into a Schlenk flask and transferred by syringe to a PPI LC series 300 mL reactor containing dipalladium tris(dibenzylidenelacetone) (0.420 g, 0.45 mmol) and 5-bromothenoyltrifluoroacetone (9 g, 30 mmol) The reactor was charged to 300 psi with ethylene and the reaction was allowed to stir for 48 hours at room temperature. Upon completion of the reaction the contents taken up in water (50 mL) and ether (50 mL), the aqueous phase acidified by addition of concentrated hydrochloric acid, and extracted with ether (2×50 mL). The combined organic phase was rinsed with saturated sodium chloride solution, and the organic phase was dried over magnesium sulfate overnight. The solution was filtered, the solvent was removed by vacuum, and the residue dissolved in chloroform (3 mL). The product was isolated by column chromatography from silica gel (Selecto, mesh size 63-200) with 10% ether in chloroform as eluent. The solvent was removed to give a light green solid (2.4 g, 32% yield). The solid was reacted with cupric chloride dehydrate in methanol, precipitated by addition of water, and recrystallized from THF/hexanes to give (VTTFA)2Cu.1.5THF. 1H-NMR (90 MHz, 25° C., CDCl3): δ 14.25 (s, 1H), 7.63 (d, 1H), 7.12 (d, 1H), 6.94 (dd, 1H), 6.36 (s, 1H), 5.86 (s, 1H). Anal.: (found/calc for C26H24CuF6O5.5S2) 81.71 (81.58), H 5.65 (5.59).

reactant | methyldicyclohexylamine | 100 mmol, 19.5 g | CN(C1CCCCC1)C1CCCCC1 | C13H25N
reactant | 5-bromothenoyltrifluoroacetone | 30 mmol, 9 g | BrC1=CC=C(S1)C(=O)CC(=O)C(F)(F)F | C8H4BrF3O2S
reactant | ethylene | C=C | C2H4
reactant | hydrochloric acid | Cl | ClH
solvent | water | 50 mL | O | H2O
solvent | ether | 50 mL | CCOCC | C4H10O
catalyst | tri-t-butylphosphine | 0.9 mmol, 0.182 g | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
solvent | 1,4-Dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | 5-vinylthenoyltrifluoroacetone | 2.4 g, 32% yield | C(=C)C1=CC=C(S1)C(=O)CC(=O)C(F)(F)F | C10H7F3O2S
